US07396830B2
An excess amount of NiO2—H2O (25 g) was added into a solution of tert-butyl 4-(cyano(phenyl)methyl)piperazine-1-carboxylate (10 g) and cyanamine (7 g) in THF (100 ml). An additional cyanamine (25 g) and MnO2 (100 g) was added after 24 hours, and then the reaction was kept stirring for 5 days. The solids were removed by filtration. The filtrate was concentrated under vaccum to give a residue which was purified by silica gel column chromatography to provide tert-butyl 4-(cyanamido(phenyl)methyl)piperazine-1-carboxylate.

reactant | tert-butyl 4-(cyano(phenyl)methyl)piperazine-1-carboxylate | 10 g | C(#N)C(N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H23N3O2
reactant | cyanamine | 7 g | C(#N)N | CH2N2
reactant | cyanamine | 25 g | C(#N)N | CH2N2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | MnO2 | 100 g | O=[Mn]=O
product | tert-butyl 4-(cyanamido(phenyl)methyl)piperazine-1-carboxylate | N(C#N)C(N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H24N4O2
